US09422331B2
To a solution of {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester (60 mg, 0.115 mmol) in N,N-dimethylformamide (1.0 mL) was added cesium carbonate (94 mg, 0.287 mmol), 5-bromo-1-chloromethyl-2-methoxy-naphthalene (39.3 mg, 0.138 mmol) and sodium iodide (17.2 mg, 0.115 mmol) and the reaction was stirred for 2 h. The reaction mixture was diluted with water (10 ml) and extracted with ethyl acetate (2×15 mL). The organic layers were combined, washed with brine (1×10 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography over silica gel gradient eluted with 10 to 70% v/v ethyl acetate hexanes to give {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-5-(5-bromo-2-methoxy-naphthalen-1-ylmethyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester (40 mg, 45%).

reactant | {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.115 mmol, 60 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H]1C(NC2=C(N([C@H]1C)C(C1=CC=C(C=C1)C(C)=O)=O)C=CC=C2)=O)=O)=O | C28H34N4O6
reactant | cesium carbonate | 0.287 mmol, 94 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-1-chloromethyl-2-methoxy-naphthalene | 0.138 mmol, 39.3 mg | BrC1=C2C=CC(=C(C2=CC=C1)CCl)OC | C12H10BrClO
reactant | sodium iodide | 0.115 mmol, 17.2 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-5-(5-bromo-2-methoxy-naphthalen-1-ylmethyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 40 mg, 45% | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H]1C(N(C2=C(N([C@H]1C)C(C1=CC=C(C=C1)C(C)=O)=O)C=CC=C2)CC2=C(C=CC1=C(C=CC=C21)Br)OC)=O)=O)=O | C40H43BrN4O7
